US07598423B2
Synthesis of 1-[2-hydroxy-4-(4-{methoxy-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-3-propyl-phenyl]-ethanone
The title compound is prepared essentially as described for 1-[4-(4-{fluoro-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone, employing 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-methoxy-methyl}-benzonitrile to give (129 mg, 47%) of the title compound as a lavender foam. 1H NMR (DMSO-d6) δ 12.85 (s, 1H), 8.12 (s, 1H), 7.93 (m, 1H), 7.80 (d, 1H), 7.59 (d, 2H), 7.42-7.49 (m, 4H), 6.71 (d, 1H), 5.50 (s, 1H), 5.25 (s, 2H), 2.57-2.61 (m, 5H), 2.09 (s, 3H), 1.47-1.56 (m, 2H), 0.84-0.92 (m, 3H). LCMS M−1 471.

reactant | 1-[4-(4-{fluoro-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | FC(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)C1=CC(=CC=C1)C1=NN=NN1 | C26H25FN4O3
reactant | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-methoxy-methyl}-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC)C=C1)CCC)O | C27H27NO4
product | 1-[2-hydroxy-4-(4-{methoxy-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-3-propyl-phenyl]-ethanone | 129 mg, 47% | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)C(C1=CC(=CC=C1)C1=NN=NN1)OC)C(C)=O | C27H28N4O4
